US04670045
6-Chloro-4-(trichloromethyl)-2-pyridinyl methylcarbamate
A solution was prepared by dissolving 7.4 g (0.03 m) of 6-chloro-4-(trichloromethyl)-2-pyridinol in 45 ml of dry dimethylformamide. To this solution was added 1.71 g (0.03 m) of methyl isocyanate and 7 drops of triethylamine. The mixture was allowed to stand, at room temperature, for ~30 hours. The reaction mixture was then poured over ice and the resulting solids were filtered out and taken up in hexane. The above-named product was recrystallized from the hexane and recovered in a yield of 3.8 g. The product melted at 95.5°-99.5° C. The structure of the compound was confirmed by its IR spectrum. Upon analysis, the product was found to have carbon, hydrogen, nitrogen and chlorine contents of 31.90, 2.10, 9.10 and 46.26 percent, respectively, as compared with the theoretical contents of 31.50, 1.99, 9.22 and 46.50 percent, respectively, as calculated for the above-named compound (Compound 2).

reactant | 6-chloro-4-(trichloromethyl)-2-pyridinol | 7.4 g | ClC1=CC(=CC(=N1)O)C(Cl)(Cl)Cl | C6H3Cl4NO
reactant | methyl isocyanate | 1.71 g | CN=C=O | C2H3NO
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
catalyst | triethylamine | 7 drops | C(C)N(CC)CC | C6H15N
product | 6-Chloro-4-(trichloromethyl)-2-pyridinyl methylcarbamate | CNC(OC1=NC(=CC(=C1)C(Cl)(Cl)Cl)Cl)=O | C8H6Cl4N2O2
